US07238808B2
5-(4-Chloro-3-methyl-phenyl)-3-pyridin-3-ylethynyl-7-trifluoromethyl-pyrazolo [1,5-a]pyrimidine
The title compound was prepared from 5-(4-chloro-3-methyl-phenyl)-3-ethynyl-7-trifluoromethyl-pyrazolo[1,5-a]pyrimidine (example C.11) (336 mg, 1.0 mmol) and commercially available 3-bromopyridine (158 mg, 1.0 mmol) according to general procedure II. Obtained as a yellow solid (90 mg, 22%). MS (ISP) 413.0 [(M+H)+]; mp 196° C.

reactant | 5-(4-chloro-3-methyl-phenyl)-3-ethynyl-7-trifluoromethyl-pyrazolo[1,5-a]pyrimidine | 1.0 mmol, 336 mg | ClC1=C(C=C(C=C1)C1=NC=2N(C(=C1)C(F)(F)F)N=CC2C#C)C | C16H9ClF3N3
reactant | 3-bromopyridine | 1.0 mmol, 158 mg | BrC=1C=NC=CC1 | C5H4BrN
product | 5-(4-Chloro-3-methyl-phenyl)-3-pyridin-3-ylethynyl-7-trifluoromethyl-pyrazolo [1,5-a]pyrimidine | ClC1=C(C=C(C=C1)C1=NC=2N(C(=C1)C(F)(F)F)N=CC2C#CC=2C=NC=CC2)C | C21H12ClF3N4
